US05212042
68 g (0.3 mol) of 2,4,5-Trichloronitrobenzene and 77.4 g (0.9 mol) of piperazine were stirred in 100 ml of a dimethylformamide in the presence of 31 g of anhydrous potassium carbonate for one hour at a room temperature of 25° C. to 40° C. and then for one hour at 70° to 80° C. to obtain 49.5 g of 2-piperazino-4,5-dichloronitrobenzene. This compound was reacted with 2-ethylhexanoyl chloride in a solvent of acetonitrile in the presence of pyridine to obtain 2-[N-(2-hexanoyl)piperazino]-4,5-dichloronitrobenzene.

reactant | 2,4,5-Trichloronitrobenzene | 0.3 mol, 68 g | ClC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | piperazine | 0.9 mol, 77.4 g | N1CCNCC1 | C4H10N2
reactant | potassium carbonate | 31 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 2-piperazino-4,5-dichloronitrobenzene | 49.5 g | N1(CCNCC1)C1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-] | C10H11Cl2N3O2
